US08492378B2
2-[3-[3-fluoro-4-(pyrrolidin-1-ylcarbonyl)phenyl]-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole
In the same manner as in Example 117 and using 2-fluoro-4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzoic acid instead of 3-[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]propionic acid and using pyrrolidine instead of N,O-dimethylhydroxyamine hydrochloride, the title compound (yield 53%) was obtained as colorless crystals.

reactant | 2-fluoro-4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]benzoic acid | FC1=C(C(=O)O)C=CC(=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C18H11FN2O4
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 2-[3-[3-fluoro-4-(pyrrolidin-1-ylcarbonyl)phenyl]-1-benzofuran-5-yl]-5-methyl-1,3,4-oxadiazole | yield 53% | FC=1C=C(C=CC1C(=O)N1CCCC1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C22H18FN3O3
